US06784167B2
To a solution of (±)-(4R*,5R*)-5-ethoxycarbonyl-1-methyl-4-(4-hydroxyphenyl)pyrrolidin-2-one (prepared according to the procedure described for Intermediate W, 0.74 g, 2.81 mmol) in acetone (10 mL) was added Cs2CO3 (2.03 g, 5.62 mmol), followed by iodomethane (0.19 mL, 3.1 mmol). The reaction was stirred at room temperature for 72 h and filtered. The filtrate was concentrated under reduced pressure. The resulting oil was purified by flash chromatography (EtOAc) to yield (±)-(4R*,5R*)-5-ethoxycarbonyl-1-methyl-4-(4-methoxy-phenyl)pyrrolidin-2-one (0.72 g, 93%) as a white solid: 1H NMR (DMSO-d6) δ 0.73 (t, J=6.0 Hz, 3H), 2.44-2.71 (m, 5H), 3.56-3.78 (m, 5H), 3.88 (q, J=8.8 Hz, 1H), 4.42 (d, J=8.8 Hz, 1H), 6.82-6.87 (m, 2H), 7.11-7.16 (m, 2H).

reactant | (±)-(4R*,5R*)-5-ethoxycarbonyl-1-methyl-4-(4-hydroxyphenyl)pyrrolidin-2-one | C(C)OC(=O)[C@H]1[C@H](CC(N1C)=O)C1=CC=C(C=C1)O | C14H17NO4
reactant | Cs2CO3 | 5.62 mmol, 2.03 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | iodomethane | 3.1 mmol, 0.19 mL | IC | CH3I
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | (±)-(4R*,5R*)-5-ethoxycarbonyl-1-methyl-4-(4-methoxy-phenyl)pyrrolidin-2-one | 0.72 g, 93% | C(C)OC(=O)[C@H]1[C@H](CC(N1C)=O)C1=CC=C(C=C1)OC | C15H19NO4
